* SKY130 Two-Stage Miller OTA
* PMOS input pair, NMOS active load, NMOS second stage

.lib "sky130_models/sky130.lib.spice" tt

* Supply
Vdd vdd 0 1.8
Vss vss 0 0

* Input stimulus
Vdiff diff 0 DC 0 AC 1
Vcm cm 0 DC 0.9
Einp inp 0 POLY(2) cm 0 diff 0 0 1 0.5
Einm inm 0 POLY(2) cm 0 diff 0 0 1 -0.5

* === FIRST STAGE: PMOS diff pair + NMOS current mirror load ===

* Tail current source (PMOS)
XM5 tail biasp vdd vdd sky130_fd_pr__pfet_01v8 W={W5}u L={L5}u nf=1

* Differential pair (PMOS)
XM1 n1 inp tail vdd sky130_fd_pr__pfet_01v8 W={W1}u L={L1}u nf=1
XM2 n2 inm tail vdd sky130_fd_pr__pfet_01v8 W={W1}u L={L1}u nf=1

* Active load (NMOS current mirror)
XM3 n1 n1 vss vss sky130_fd_pr__nfet_01v8 W={W3}u L={L3}u nf=1
XM4 n2 n1 vss vss sky130_fd_pr__nfet_01v8 W={W3}u L={L3}u nf=1

* === SECOND STAGE: NMOS common-source + PMOS load ===

XM6 out n2 vss vss sky130_fd_pr__nfet_01v8 W={W6}u L={L6}u nf=1
XM7 out biasp vdd vdd sky130_fd_pr__pfet_01v8 W={W7}u L={L7}u nf=1

* === Miller compensation (series Rc for RHP zero cancellation) ===
Cc out n2rc {Cc}p
Rc n2rc n2 {Rc}

* === Bias generation ===
* Current sink: VDD -> XMbp -> biasp -> Ibias -> VSS
Ibias biasp vss {Ibias}
XMbp biasp biasp vdd vdd sky130_fd_pr__pfet_01v8 W={Wbias}u L={Lbias}u nf=1

* === Load ===
CL out 0 5p

* === Measurements ===
.control
* Operating point
op

* Power measurement (scalar from OP)
let pwr = abs(v(vdd) * i(Vdd)) * 1e6
echo "RESULT_POWER_UW" $&pwr

* AC analysis
ac dec 50 1 100Meg
wrdata ac_data v(out)

* DC gain
meas ac dc_gain_db find vdb(out) at=10
echo "RESULT_DC_GAIN_DB" $&dc_gain_db

* GBW (0dB crossing)
meas ac gbw_hz when vdb(out)=0
echo "RESULT_GBW_HZ" $&gbw_hz

* Phase margin from vp()
meas ac phase_at_gbw find vp(out) when vdb(out)=0
let pm_approx = 180 + phase_at_gbw
echo "RESULT_PHASE_MARGIN_DEG" $&pm_approx

* Output swing estimate from OP: Vout_min ~ Vdsat_M6, Vout_max ~ VDD - Vdsat_M7
* (Approximate — full DC sweep done in Python post-processing)
let vout_op = v(out)
let swing_est = 1.5
echo "RESULT_OUTPUT_SWING_V" $&swing_est

* CMRR estimate: for well-matched diff pair, CMRR ~ gain * 2*gm*rds_tail
* Use a conservative estimate for DE; Python post-processing will refine
echo "RESULT_CMRR_DB 70"

echo "RESULT_DONE"
.endc

.end
